US07291635B2
745 mg (2.60 mmol) of the title B compound in Example 9, 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one, 328 mg (1.73 mmol) of the title E compound, (4-methoxyquinoline-7-yl)-methanol and 448 mg (526 mg., 2.60 mmol) of tributylphosphine are stirred in 5 mL of THF. 448 mg (2.60 mmols) of TMAD is added and the mixture is stirred for 18 h. A spatula tip of Raney nickel is added, the mixture is stirred for 10 min, and then filtered through Celite. The filtrate is evaporated to dryness and chromatographed on a Biotage 40M column with 98:2 EtOAc/EtOH to afford 2-(2,4-dimethoxy-benzyl)-5-(4-methoxy-quinolin-7-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one: mp=128-132° C.; 1H-NMR (CDCl3) δ 3.79 (2H, s), 3.81 (3H, s), 3.85 (3H, s), 4.06 (3H, s), 4.51 (2H, s), 4.82 (2H, s), 6.46 (2H, m), 6.78 (1H, d, J=5.2) 7.30 (1H, m), 7.53 (1H, dd, J=8.5, 1.5), 7.96 (1H, s), 8.22 (1H, d J=8.5), 8.77 (1H, d, J=5.2); [M+1]+=458.

reactant | 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | COC1=C(CN2S(NCC2=O)(=O)=O)C=CC(=C1)OC | C11H14N2O5S
reactant | (4-methoxyquinoline-7-yl)-methanol | COC1=CC=NC2=CC(=CC=C12)CO | C11H11NO2
reactant | tributylphosphine | 2.60 mmol, 448 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | TMAD | 2.60 mmols, 448 mg | CN(C)C(=O)/N=N/C(=O)N(C)C | C6H12N4O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 2-(2,4-dimethoxy-benzyl)-5-(4-methoxy-quinolin-7-ylmethyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | COC1=C(CN2S(N(CC2=O)CC2=CC=C3C(=CC=NC3=C2)OC)(=O)=O)C=CC(=C1)OC | C22H23N3O6S
